US07732460B2
(f) 3-Ethenyl-5,6-dihydrofuro[2,3-c]pyridazine
A solution of 5,6-dihydrofuro[2,3-c]pyridazin-3-yl trifluoromethanesulfonate (500 mg, 1.85 mmol) in dimethoxyethane (20 ml) was degassed then treated with tetrakis(triphenylphosphine)palladium (0) (116 mg), potassium carbonate (257 mg), 2,4,6-trivinylcyclotriboroxane pyridine complex (for a preparation of this reagent see F. Kerins and D. F. O'Shea, J. Org. Chem. 2002, 67, 4968-4971) (416 mg) and water (3.6 ml). The mixture was stirred at 80° C. for 2 hours then partitioned between DCM and saturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with 10% methanol in DCM then the combined organic extracts dried and evaporated. The residue was chromatographed eluting with ethyl acetate affording a white solid (111 mg, 36%).

reactant | 5,6-dihydrofuro[2,3-c]pyridazin-3-yl trifluoromethanesulfonate | 1.85 mmol, 500 mg | FC(S(=O)(=O)OC1=CC2=C(N=N1)OCC2)(F)F | C7H5F3N2O4S
reactant | potassium carbonate | 257 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,6-trivinylcyclotriboroxane pyridine complex | B1(OB(OB(O1)C=C)C=C)C=C.C1=CC=NC=C1
reactant | water | 3.6 ml | O | H2O
solvent | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 116 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Ethenyl-5,6-dihydrofuro[2,3-c]pyridazine | C(=C)C1=CC2=C(N=N1)OCC2 | C8H8N2O
